US09145414B2
Copper oxide (I) (50 mg), NMP (2.5 mL), and concentrated aqueous ammonia (2.5 mL) were added to 5-bromo-7-methyl-2-(1-methylcyclobutyl)-2H-indazole obtained in the above-described Step 1 (536 mg), and the reaction solution was stirred in a microwave reactor at 100° C. for 5 hours. The reaction solution was cooled to room temperature, diluted with ethyl acetate, and then washed successively with water three times and then with a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum, and the resultant was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain 7-methyl-2-(1-methylcyclobutyl)-2H-indazol-5-amine.

reactant | NMP | 2.5 mL | CN1CCCC1=O | C5H9NO
reactant | ammonia | 2.5 mL | N | H3N
reactant | 5-bromo-7-methyl-2-(1-methylcyclobutyl)-2H-indazole | BrC1=CC2=CN(N=C2C(=C1)C)C1(CCC1)C | C13H15BrN2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 50 mg | [Cu](I)I
product | 7-methyl-2-(1-methylcyclobutyl)-2H-indazol-5-amine | CC1=CC(=CC2=CN(N=C12)C1(CCC1)C)N | C13H17N3
